US07371743B2
(c) 4-fluoro-3-methyl-benzonitrile
10.00 g (65.29 mmol) 4-fluoro-3-methyl-benzoic acid amide are stirred together with 50 ml phosphorus oxychloride for 4 hours at 60° C. and then evaporated down i. vac. The residue is poured into ice water, the resulting precipitate is filtered off and washed with water. After being taken up in ethyl acetate the organic phase is washed with sat. potassium carbonate solution, dried over sodium sulphate and evaporated down completely i. vac.

reactant | 4-fluoro-3-methyl-benzoic acid amide | 65.29 mmol, 10.00 g | FC1=C(C=C(C(=O)N)C=C1)C | C8H8FNO
solvent | phosphorus oxychloride | 50 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 4-fluoro-3-methyl-benzonitrile | FC1=C(C=C(C#N)C=C1)C | C8H6FN
